US04131679
A mixture of 4 grams (0.013 mole) of 5-methyl-6,7-dihydro-3,6-diphenyl isoxazolo[4,5-c]pyridin-4(5H)-one, 0.44 grams palladium on carbon and 80 ml. ethanol is hydrogenated at 50 psi until the equivalent amount of hydrogen is absorbed. The catalyst is filtered and washed thoroughly with ethanol. The ethanol is evaporated in vacuo and the residue recrystallized to give 3-α-iminobenzyl-5,6-dihydro-4-hydroxy-1-methyl-6-phenyl-2(1H)-pyridone; m.p. 117° to 120° C.

reactant | 5-methyl-6,7-dihydro-3,6-diphenyl isoxazolo[4,5-c]pyridin-4(5H)-one | 0.013 mole, 4 grams | CN1C(C2=C(CC1C1=CC=CC=C1)ON=C2C2=CC=CC=C2)=O | C19H16N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.44 grams | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-α-iminobenzyl-5,6-dihydro-4-hydroxy-1-methyl-6-phenyl-2(1H)-pyridone | N=C(C1=CC=CC=C1)C=1C(N(C(CC1O)C1=CC=CC=C1)C)=O | C19H18N2O2
